US06265426B1
2-Methoxy-5-[5-(3-pyrrolidin-1-ylmethyl-phenyl)-2H-[1,2,4]triazol-3-yl]-phenol hydrochloride (1:1) (mixture of tautomers)
A solution of 5-(3-benzyloxy-4-methoxy-phenyl)-3-(3-pyrrolidin-1-ylmethyl-phenyl)-1H-[1,2,4]triazole hydrochloride (1:1) (300 mg, 0.63 mmol) in ethanol (80 ml) was hydrogenated (1 atm H2) with Pd/C (10%, 50 mg) at 20° C. overnight. The catalyst was filtered off, the solvent volume was reduced to ca. 5 ml and the resulting product recrystallized. After drying under high vaccum at 40° C. for 8 hrs. the title compound was obtained (152 mg, 63% yield) as a light yellow solid. MS: m/e=351.4 (M+H+).

reactant | 5-(3-benzyloxy-4-methoxy-phenyl)-3-(3-pyrrolidin-1-ylmethyl-phenyl)-1H-[1,2,4]triazole hydrochloride | 0.63 mmol, 300 mg | Cl.C(C1=CC=CC=C1)OC=1C=C(C=CC1OC)C1=NC(=NN1)C1=CC(=CC=C1)CN1CCCC1
solvent | ethanol | 80 ml | C(C)O | C2H6O
catalyst | Pd/C | 50 mg | [Pd] | Pd
product | 2-Methoxy-5-[5-(3-pyrrolidin-1-ylmethyl-phenyl)-2H-[1,2,4]triazol-3-yl]-phenol hydrochloride | 63% yield | Cl.COC1=C(C=C(C=C1)C=1NN=C(N1)C1=CC(=CC=C1)CN1CCCC1)O | InChI=1S/C20H22N4O2.ClH/c1-26-18-8-7-16(12-17(18)25)20-21-19(22-23-20)15-6-4-5-14(11-15)13-24-9-2-3-10-24;/h4-8,11-12,25H,2-3,9-10,13H2,1H3,(H,21,22,23);1H
